US06903126B2
b) 6-[[2-Chloro-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
2.5 g of 6-[[1-(4-methylphenyl)-2-oxo-2,3-dihydro-1H-benzoimidazol-6-yl]oxy]hexanoic acid methyl ester was mixed with 10 ml of phosphorus oxychloride, and the mixture was refluxed for 2 hours. After cooling, it was stirred into saturated sodium bicarbonate solution, extracted three times with ethyl acetate, the combined organic phases were dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 1.28 g was obtained.

reactant | 6-[[1-(4-methylphenyl)-2-oxo-2,3-dihydro-1H-benzoimidazol-6-yl]oxy]hexanoic acid methyl ester | 2.5 g | COC(CCCCCOC=1C=CC2=C(N(C(N2)=O)C2=CC=C(C=C2)C)C1)=O | C21H24N2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-[[2-Chloro-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)Cl)C2=CC=C(C=C2)C)C1)=O | C21H23ClN2O3
